US05624942
Synthesis of 4-chloro-2-(3-thienylmethyloxy)-6-(meta-trifluoromethylphenoxy)pyridine (I-8)
To a solution of meta-trifluoromethylphenol (0.28 g, 0.0018×1.0 mol) in 10 ml of dry N,N-dimethylacetamide, sodium hydride (0.077 g, (ca.60% in mineral oil), 0.0018×1.1 mol) was added. After the bubbling ceased, a solution of 2,4-dichloro-6-(3-thienylmethyloxy)pyridine (0.46 g, 0.0018 mol) in 10 ml of dry N,N-dimethylacetamide was added dropwise and the resultant solution was stirred for about 7 hours at the temperature of 160° to 170° C. After allowed to cool, water was added to the reaction solution, then the mixture was partitioned by using ethyl acetate. The obtained organic layer was washed with aqueous saturated sodium chloride and dried over anhydrous sodium sulfate. The solvent was distilled off, then the residue was purified successively on silica gel column chromatography and on reversed phase column chromatography (Lobar column, Lichroprep RP-18, 40-63 μm, elution solvent: CH3CN/H2O=7/3(v/v)), whereby the end product was obtained.

reactant | meta-trifluoromethylphenol | 1.0 mol, 0.28 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | sodium hydride | 1.1 mol, 0.077 g | [H-].[Na+]
reactant | 2,4-dichloro-6-(3-thienylmethyloxy)pyridine | 0.0018 mol, 0.46 g | ClC1=NC(=CC(=C1)Cl)OCC1=CSC=C1 | C10H7Cl2NOS
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | 4-chloro-2-(3-thienylmethyloxy)-6-(meta-trifluoromethylphenoxy)pyridine | ClC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)OCC1=CSC=C1 | C17H11ClF3NO2S
